US04051173
2.89 g. of 2-(biphenylyl-4-oxy)-2-phenyl-ethylamine (obtainable by reacting 4-hydroxy-biphenyl with 2-bromophenylacetenitile and subsequently reducing the resulting nitrile) are dissolved in 50 ml. of 15% aqueous acetic acid and a solution of 1 g. of NaNO2 in 5 ml. of water is added while cooling with ice. The mixture is heated at 80° C. for 1 hour, worked up in the usual manner and purified by chromatography on silica gel to give 2-(4-biphenylyloxy)-2-phenyl-ethanol, m.p. 126°-127° C.

reactant | 4-hydroxy-biphenyl | OC1=CC=C(C=C1)C1=CC=CC=C1 | C12H10O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NaNO2 | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2-(4-biphenylyloxy)-2-phenyl-ethanol | C1(=CC=C(C=C1)OC(CO)C1=CC=CC=C1)C1=CC=CC=C1 | C20H18O2
